US04007181
N,N'-di-2-Adamantyl-4-morpholinecarboxamidine
A mixture of 3.45 g. (0.01 mole) of N,N'-di-2-adamantylthiourea, 3.15 g. (0.012 mole) of triphenylphosphine, 1.55 g. (0.01 mole) of carbon tetrachloride and 1.0 g. (0.01 mole) of triethylamine in 25 ml. of methylene chloride is stirred at 40°-45° for 2.5 hr. The solvent is evaporated and the residue which contained N,N'-di-2-adamantylcarbodiimide is reacted with 10 ml. of morpholine in 10 ml. of tert-butyl alcohol on a steam-bath for 16 hrs. The mixture is diluted with toluene and evaporated in vacuo to remove excess morpholine. The residue is partitioned between 10 percent hydrochloric acid and ether. Some solid insoluble in both phases is filtered off and discarded. The acid layer is combined with the water extracts of the ether layer. The acid layer is basified with 20 percent sodium hydroxide to pH 13-14 and nitrogen bubbled through the solution to remove ether. The solid which separated is collected, washed with water, airdried and recrystallized from isopropanol-water: 1.6 (40 percent), m.p. 123-124.

reactant | N,N'-di-2-adamantylthiourea | 0.01 mole | C12C(C3CC(CC(C1)C3)C2)NC(=S)NC2C3CC1CC(CC2C1)C3 | C21H32N2S
reactant | triphenylphosphine | 0.012 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.01 mole | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N'-di-2-Adamantyl-4-morpholinecarboxamidine | C12C(C3CC(CC(C1)C3)C2)NC(=NC2C3CC1CC(CC2C1)C3)N3CCOCC3 | C25H39N3O
